US07396844B1
Synthesis of 1-benzenesulfonyl-N-[2-(3-cyanophenoxy)ethyl]piperidine-4-carboxyamide
430 mg (1.58 mmol) of N-[2-(3-cyanophenoxy)ethyl]piperidine-4-carboxyamide was dissolved in 10 ml of dimethylformamide. 0.2 ml (1.43 mmol) of triethylamine and 253 mg (1.43 mmol) of benzenesulfonyl chloride were added to the solution at 0° C., and they were stirred for 13 hours. After the treatment with ethyl acetate as the extractant in an ordinary manner, the title compound was obtained.

reactant | N-[2-(3-cyanophenoxy)ethyl]piperidine-4-carboxyamide | 1.58 mmol, 430 mg | C(#N)C=1C=C(OCCNC(=O)CC2CCNCC2)C=CC1 | C16H21N3O2
reactant | triethylamine | 1.43 mmol, 0.2 ml | C(C)N(CC)CC | C6H15N
reactant | benzenesulfonyl chloride | 1.43 mmol, 253 mg | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-benzenesulfonyl-N-[2-(3-cyanophenoxy)ethyl]piperidine-4-carboxyamide | C1(=CC=CC=C1)S(=O)(=O)N1CCC(CC1)CC(=O)NCCOC1=CC(=CC=C1)C#N | C22H25N3O4S
